US06835732B2
2-(4-Fluoro-benzoylamino)-4-methoxy-benzothiazole-7-carboxylic acid methyl ester
Using 2-amino-4-methoxy-benzothiazole-7-carboxylic acid methyl ester and 4-fluoro-benzoyl chloride the title compound was obtained as a white solid (91% yield), MS: m/e=361.1 (M+H+).

reactant | 2-amino-4-methoxy-benzothiazole-7-carboxylic acid methyl ester | COC(=O)C1=CC=C(C=2N=C(SC21)N)OC | C10H10N2O3S
reactant | 4-fluoro-benzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | 2-(4-Fluoro-benzoylamino)-4-methoxy-benzothiazole-7-carboxylic acid methyl ester | COC(=O)C1=CC=C(C=2N=C(SC21)NC(C2=CC=C(C=C2)F)=O)OC | C17H13FN2O4S
